US03931232
Reaction of 2-acetyl-5-methylcyclohexanone with 5-(1 -methylheptyl)resorcinol according to the procedure of Example 1 gives 5,6,7,8-tetrahydro-1 -hydroxy-6,9-dimethyl-3-(1-methylheptyl)xanthene.

reactant | 2-acetyl-5-methylcyclohexanone | C(C)(=O)C1C(CC(CC1)C)=O | C9H14O2
reactant | 5-(1 -methylheptyl)resorcinol | CC(CCCCCC)C=1C=C(C=C(O)C1)O | C14H22O2
product | 5,6,7,8-tetrahydro-1 -hydroxy-6,9-dimethyl-3-(1-methylheptyl)xanthene | OC1=CC(=CC=2OC=3CC(CCC3C(C12)C)C)C(CCCCCC)C | C23H34O2
